US07713994B2
(4Z)-4-({[4-(Piperidin-1-ylmethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione
A mixture of 4-methoxymethylene-4H-isoquinoline-1,3-dione (101.5 mg, 0.5 mmol), 4-piperidin-1-ylmethyl-phenylamine (95.14 mg, 0.5 mmol) in 1 mL of N,N-dimethylformamide is heated at 110° C. for 2 h. After cooling in the refrigerator, the precipitate is collected, and washed with ether to give 92 mg (51%) of yellow solid mp 185-186° C.; HRMS (ESI) m/z calcd for C22H23N3O2 362.18546. found 362.18631 (M+H)+1.

reactant | 4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.5 mmol, 101.5 mg | COC=C1C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
reactant | 4-piperidin-1-ylmethyl-phenylamine | 0.5 mmol, 95.14 mg | N1(CCCCC1)CC1=CC=C(C=C1)N | C12H18N2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (4Z)-4-({[4-(Piperidin-1-ylmethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 92 mg, 51% | N1(CCCCC1)CC1=CC=C(C=C1)N\C=C\1/C(NC(C2=CC=CC=C12)=O)=O | C22H23N3O2
